### PR TITLE
[Merged by Bors] - feat: sigma-compact sets

### PR DESCRIPTION
**Pull request by grunweg**
Define sigma-compact subsets of a topological space and show their basic properties.

* compact sets are sigma-compact
* countable unions of (sigma-)compact sets are sigma-compact
* closed subsets of sigma-compact sets are sigma-compact.

Relate them to sigma-compact space: a set is sigma-compact iff it is a sigma-compact space (w.r.t. the subspace topology).

In a later PR, we'll show that sigma-compact measure zero sets are nowhere dense.

- [x] depends on: #7528
-----------

Similar to compact sets and spaces, we define sigma-compact subsets first, and relate sigma-compact spaces to them later.

### CODE REVIEW

File: Mathlib/Topology/SubsetProperties.lean [hunk 1]
```diff
@@ -1307,6 +1309,120 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+  rw [← inter_iUnion, hcov]
+  exact Set.inter_eq_left_iff_subset.mpr h
+
+/-- If `s` is σ-compact and `f` continuous on a set `w` containing `s`, `f(s)` is σ-compact.-/
+lemma IsSigmaCompact.image_of_continuousOn {f : α → β} {s : Set α} (hs : IsSigmaCompact s)
+    (hf : ContinuousOn f s) : IsSigmaCompact (f '' s) := by
+  rcases hs with ⟨K, hcompact, hcov⟩
+  refine ⟨fun n ↦ f '' K n, ?_, (by rw [← hcov]; exact image_iUnion.symm)⟩
+  refine fun n ↦ (hcompact n).image_of_continuousOn (hf.mono ?_)
+  calc K n
```
Comment (grunweg) [inline Mathlib/Topology/SubsetProperties.lean:1388]: Would changing this calc block to
```
  rw [← hcov]
  exact subset_iUnion K n
```
be desirable? (My sense of aesthetics is unsure.)

File: Mathlib/Topology/Homeomorph.lean [hunk 2]
```diff
@@ -266,6 +266,19 @@ theorem isCompact_preimage {s : Set β} (h : α ≃ₜ β) : IsCompact (h ⁻¹'
   rw [← image_symm]; exact h.symm.isCompact_image
 #align homeomorph.is_compact_preimage Homeomorph.isCompact_preimage
 
+/-- If `h : α → β` is a homeomorphism, `s` is σ-compact iff `h(s)` is. -/
+theorem isSigmaCompact_image {s : Set α} (h : α ≃ₜ β) :
```
Comment (eric-wieser) [inline Mathlib/Topology/Homeomorph.lean:270]: This looks like a good `simp` lemma to me, unless the linter knows better.

Is this (or the `preimage` version) true under the weaker assumption `Embedding f`?

File: Mathlib/Topology/SubsetProperties.lean [hunk 3]
```diff
@@ -1307,6 +1309,120 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+
+/-- The empty set is σ-compact. -/
+@[simp]
+lemma isSigmaCompact_empty : IsSigmaCompact (∅ : Set α) := by
+  use fun _ ↦ ∅
+  simp only [isCompact_empty, forall_const, iUnion_empty, and_self]
+
+/-- Compact sets are σ-compact. -/
+lemma isSigmaCompact_of_compact {s : Set α} (hs : IsCompact s) : IsSigmaCompact s :=
+  ⟨fun _ => s, fun _ => hs, iUnion_const _⟩
```
Comment (eric-wieser) [inline Mathlib/Topology/SubsetProperties.lean:1324]: This is a good place for dot notation:
```suggestion
/-- Compact sets are σ-compact. -/
lemma IsCompact.isSigmaCompact {s : Set α} (hs : IsCompact s) : IsSigmaCompact s :=
  ⟨fun _ => s, fun _ => hs, iUnion_const _⟩
```

File: Mathlib/Topology/SubsetProperties.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Topology/SubsetProperties.lean:1388]: I think it's inconsistent to use a calc block for this one but `by rw [← hcov]; exact image_iUnion.symm` for the other one.

Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1388]: Fair point, agreed.

File: Mathlib/Topology/Homeomorph.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Topology/Homeomorph.lean:271]: Indeed it is --- this is shown in `Embedding.isSigmaCompact_iff_isSigmaCompact_image` in `SubsetProperties.lean`.

I have pushed a change tagging this simp; let's see what CI says.

Comment (eric-wieser) [reply Mathlib/Topology/Homeomorph.lean:271]: Can you use that lemma to prove this one?

File: Mathlib/Topology/SubsetProperties.lean [hunk 4]
```diff
@@ -1307,6 +1309,119 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+
+/-- If `s` is σ-compact and `f` continuous, `f(s)` is σ-compact. -/
+lemma IsSigmaCompact.image {f : α → β} (hf : Continuous f) {s : Set α} (hs : IsSigmaCompact s) :
+    IsSigmaCompact (f '' s) := hs.image_of_continuousOn hf.continuousOn
+
+/-- If `f : X → Y` is an `Embedding`, the image `f '' s` of a set `s` is σ-compact
+if and only `s`` is σ-compact.
+This does not hold for merely inducing maps; direction `←` requires injectivity. -/
+lemma Embedding.isSigmaCompact_iff_isSigmaCompact_image {f : α → β} {s : Set α}
+    (hf : Embedding f) : IsSigmaCompact s ↔ IsSigmaCompact (f '' s) := by
```
Comment (eric-wieser) [inline Mathlib/Topology/SubsetProperties.lean:1399]: This looks better in reverse to me:
```suggestion
lemma Embedding.isSigmaCompact_image_iff {f : α → β} {s : Set α}
    (hf : Embedding f) : IsSigmaCompact (f '' s) ↔ IsSigmaCompact s := by
```
(obviously you'll have to tweak the proof too)

File: Mathlib/Topology/SubsetProperties.lean [hunk 5]
```diff
@@ -1307,6 +1309,119 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+      specialize hcomp n
+      rw [← this] at hcomp
+      apply hf.toInducing.isCompact_iff.mp hcomp
+    · calc ⋃ n, f ⁻¹' L n
+        _ = f ⁻¹' (⋃ n, L n) := by rw [preimage_iUnion]
+        _ = f ⁻¹' (f '' s) := by rw [hcov]
+        _ = s := preimage_image_eq s hf.inj
+
+lemma isSigmaCompact_iff_isSigmaCompact_in_subtype {p : α → Prop} {s : Set { a // p a }} :
+    IsSigmaCompact s ↔ IsSigmaCompact (((↑) : _ → α) '' s) :=
```
Comment (eric-wieser) [inline Mathlib/Topology/SubsetProperties.lean:1422]: Slightly less verbose (but untested):
```suggestion
    IsSigmaCompact s ↔ IsSigmaCompact ((↑) '' s : Set α) :=
```

File: Mathlib/Topology/SubsetProperties.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1399]: I chose the name to mirror `Embedding.isCompact_iff_isCompact_image`. Should I change that one as well?

File: Mathlib/Topology/SubsetProperties.lean [hunk 6]
```diff
@@ -1307,6 +1309,119 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+        apply Set.image_preimage_eq_subset' (h.trans (image_subset _ (subset_univ s)))
+      specialize hcomp n
+      rw [← this] at hcomp
+      apply hf.toInducing.isCompact_iff.mp hcomp
+    · calc ⋃ n, f ⁻¹' L n
+        _ = f ⁻¹' (⋃ n, L n) := by rw [preimage_iUnion]
+        _ = f ⁻¹' (f '' s) := by rw [hcov]
+        _ = s := preimage_image_eq s hf.inj
+
+lemma isSigmaCompact_iff_isSigmaCompact_in_subtype {p : α → Prop} {s : Set { a // p a }} :
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1421]: I like the change. Should I also make the analogous change to `isCompact_iff_isCompact_in_subtype`?

File: Mathlib/Topology/SubsetProperties.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1422]: Works locally!

File: Mathlib/Topology/SubsetProperties.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Topology/SubsetProperties.lean:1399]: That's a good reason for the current name; certainly I agree they should match.

Let's see if @urkud or @sgouezel agree with renaming (and flipping) both.

File: Mathlib/Topology/SubsetProperties.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Topology/SubsetProperties.lean:1421]: Let's throw this into the same decision as [the other thread](https://github.com/leanprover-community/mathlib4/pull/7576#discussion_r1350142956), and decide both the same way.

File: Mathlib/Topology/SubsetProperties.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Topology/SubsetProperties.lean:1399]: These names come from https://github.com/leanprover-community/mathlib/pull/367, so are very old and possibly before conventions were well established!

**Comment by grunweg** [comment]
@eric-wieser CI passes, so making the lemma you mentioned simp works. I presume Homeomorph.isCompact_image should also be a simp lemma then, and have PRed this as #7594.
I've also added the analogous version for preimages.

File: Mathlib/Topology/SubsetProperties.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/SubsetProperties.lean]: This should just be called `Embedding.is[Sigma]Compact_iff`, by analogy with [Inducing.isCompact_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/SubsetProperties.html#Inducing.isCompact_iff). The rationale is the following: most of the embeddings we consider go from a space we want to understand to a space we understand well, so this should just be thought of as a criterion for compacity on the domain, which is why we don't emphasize the image part.

File: Mathlib/Topology/SubsetProperties.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/SubsetProperties.lean]: I don't have a strong opinion on this one, maybe `Subtype.isSigmaCompact_iff`? The name `isSigmaCompact_subtype` sounds a bit weird to me, it sounds like "the subtype is sigma compact" (which makes no sense ofc).

File: Mathlib/Data/Set/Image.lean [hunk 7]
```diff
@@ -492,6 +492,17 @@ theorem image_preimage_subset (f : α → β) (s : Set β) : f '' (f ⁻¹' s) 
   image_subset_iff.2 Subset.rfl
 #align set.image_preimage_subset Set.image_preimage_subset
 
+-- Phrased in terms of f '' univ, as `Set.range` is only defined further below.
+theorem image_preimage_eq_subset' {f : α → β} {s : Set β} (hs : s ⊆ f '' univ) :
```
Comment (ADedecker) [inline Mathlib/Data/Set/Image.lean:496]: What's wrong with using [Set.image_preimage_eq_of_subset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Set.image_preimage_eq_of_subset)?

File: Mathlib/Topology/SubsetProperties.lean [hunk 8]
```diff
@@ -1316,6 +1432,28 @@ class SigmaCompactSpace (α : Type*) [TopologicalSpace α] : Prop where
   exists_compact_covering : ∃ K : ℕ → Set α, (∀ n, IsCompact (K n)) ∧ ⋃ n, K n = univ
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1432]: For consistency with `CompactSpace`, `ConnectedSpace` and so on, could you replace the definition to be literally `IsSigmaCompact (univ : Set α)` and then prove that it's equivalent to the current definition?

File: Mathlib/Topology/SubsetProperties.lean [hunk 9]
```diff
@@ -1307,6 +1309,120 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+
+/-- Countable unions of compact sets are σ-compact. -/
+lemma isSigmaCompact_of_countable_compact {S : Set (Set α)} (hc : Set.Countable S)
+    (hcomp : ∀ (s : Set α), s ∈ S → IsCompact s) : IsSigmaCompact (⋃₀ S) := by
+  by_cases S = ∅
+  · simp only [h, sUnion_empty, isSigmaCompact_empty]
+  · -- If S is non-empty, choose a surjection f : ℕ → S, this yields a map ℕ → Set X.
+    obtain ⟨f, hf⟩ := (Set.countable_iff_exists_surjective (nmem_singleton_empty.mp h)).mp hc
+    refine ⟨fun n ↦ f n, fun n ↦ hcomp (f n) (Subtype.mem (f n)), ?_⟩
+    -- I presume this part can be golfed.
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1334]: Does [Function.Surjective.iUnion_comp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Lattice.html#Function.Surjective.iUnion_comp) help?

File: Mathlib/Topology/SubsetProperties.lean [hunk 10]
```diff
@@ -1307,6 +1309,120 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+lemma isSigmaCompact_empty : IsSigmaCompact (∅ : Set α) := by
+  use fun _ ↦ ∅
+  simp only [isCompact_empty, forall_const, iUnion_empty, and_self]
+
+/-- Compact sets are σ-compact. -/
+lemma IsCompact.isSigmaCompact {s : Set α} (hs : IsCompact s) : IsSigmaCompact s :=
+  ⟨fun _ => s, fun _ => hs, iUnion_const _⟩
+
+/-- Countable unions of compact sets are σ-compact. -/
+lemma isSigmaCompact_of_countable_compact {S : Set (Set α)} (hc : Set.Countable S)
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1327]: I think this should be named either `isSigmaCompact_sUnion_of_isCompact` (I don't think it's important to emphasize on the countability in the same), or `Set.Countable.isSigmaCompact_sUnion_of_isCompact` if you want to use dot notation.

File: Mathlib/Topology/SubsetProperties.lean [hunk 11]
```diff
@@ -1307,6 +1309,120 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+      -- Choose n with f n = s (using surjectivity of f).
+      have : ∃ n, f n = s := by
+        obtain ⟨y, hy⟩ := hf ⟨s, h⟩
+        use y
+        simp_all only [Subtype.forall]
+      rcases this with ⟨n, hn⟩
+      exact ⟨f n, mem_range_self n, (by rw [hn]; exact hxs)⟩
+
+/-- Countable unions of σ-compact sets are σ-compact. -/
+lemma isSigmaCompact_of_countable_sigma_compact (S : Set (Set α)) (hc : Set.Countable S)
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1355]: Like above, I would name that either `isSigmaCompact_sUnion` or `Set.Countable.isSigmaCompact_sUnion`. I think it's fine to make less things explicit here than in the previous version because it's strictly stronger so it should be the "default" one.

Comment (ADedecker) [reply Mathlib/Topology/SubsetProperties.lean:1355]: Could you also add an `iUnion` version which would take `[Countable \iota]` as a typeclass parameter, as well as a `biUnion` version analogous to [Set.Finite.isCompact_biUnion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/SubsetProperties.html#Set.Finite.isCompact_biUnion)? You could also try to prove the indexed union version first and then deduce the `sUnion` version, imo it often gives cleaner proofs.

**Review by ADedecker — COMMENTED** [review]
Thanks a lot, this looks very good already!

File: Mathlib/Data/Set/Image.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Data/Set/Image.lean:496]: I didn't find it :-) Thanks for pointing it out!

File: Mathlib/Topology/SubsetProperties.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1334]: Indeed, it works like a charm. I'm constantly amazed how many lemmas *are* already present in mathlib.

File: Mathlib/Topology/SubsetProperties.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean]: Makes sense to me, renamed. (Indeed, counting all current occurrences in mathlib, I see one where we rewrite "forward" and five where we rewrite backwards.)

File: Mathlib/Topology/SubsetProperties.lean (hunk 11 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean]: Added both. Indeed, proving the iUnion version first was cleaner.

I've cargo-culted the description for "biUnion" in the docstring. (Is there a central place which should have this explanation?)

**Comment by grunweg** [comment]
I have addressed all your comments. (Let me know if you think the last golfs are hurting readability.)

File: Mathlib/Topology/SubsetProperties.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean]: I've renamed to Subtype.isSigmaCompact_iff for now.

File: Mathlib/Topology/NoetherianSpace.lean [hunk 12]
```diff
@@ -139,7 +139,7 @@ theorem NoetherianSpace.range [NoetherianSpace α] (f : α → β) (hf : Continu
 
 theorem noetherianSpace_set_iff (s : Set α) :
     NoetherianSpace s ↔ ∀ t, t ⊆ s → IsCompact t := by
-  simp only [noetherianSpace_iff_isCompact, embedding_subtype_val.isCompact_iff_isCompact_image,
+  simp only [noetherianSpace_iff_isCompact, embedding_subtype_val.isCompact_iff.symm,
```
Comment (ADedecker) [inline Mathlib/Topology/NoetherianSpace.lean:142]:
```suggestion
  simp only [noetherianSpace_iff_isCompact, ← embedding_subtype_val.isCompact_iff,
```

File: Mathlib/Topology/SubsetProperties.lean [hunk 13]
```diff
@@ -29,10 +30,11 @@ We define the following properties for sets in a topological space:
 * `IsClopen`: a set that is both open and closed.
 * `IsIrreducible`: a nonempty set that has contains no non-trivial pair of disjoint opens.
   See also the section below in the module doc.
+* `IsSigmaCompact`: a set that is the union of countably many compact sets.
 
 For each of these definitions (except for `IsClopen`), we also have a class stating that the whole
 space satisfies that property:
-`CompactSpace`, `PreirreducibleSpace`, `IrreducibleSpace`.
+`CompactSpace`, `PreirreducibleSpace`, `IrreducibleSpace`. (See below for `SigmaCompactSpace`.)
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:37]:
```suggestion
`CompactSpace`, `PreirreducibleSpace`, `IrreducibleSpace`, `SigmaCompactSpace`.
```
and remove the mention below. I think it keeps consistency with the rest of the docstring.

File: Mathlib/Topology/SubsetProperties.lean [hunk 14]
```diff
@@ -880,10 +882,9 @@ theorem Inducing.isCompact_iff {f : α → β} (hf : Inducing f) {s : Set α} :
 /-- If `f : α → β` is an `Embedding` (or more generally, an `Inducing` map, see
 `Inducing.isCompact_iff`), the image `f '' s` of a set `s` is compact if and only if the set
 `s` is compact. -/
-theorem Embedding.isCompact_iff_isCompact_image {f : α → β} (hf : Embedding f) :
-    IsCompact s ↔ IsCompact (f '' s) :=
-  hf.toInducing.isCompact_iff.symm
-#align embedding.is_compact_iff_is_compact_image Embedding.isCompact_iff_isCompact_image
+theorem Embedding.isCompact_iff {f : α → β} (hf : Embedding f) :
+    IsCompact (f '' s) ↔ IsCompact s := hf.toInducing.isCompact_iff
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:886]: I should have mentioned that yesterday, but I think that we should actually keep the current order and reverse the order of `Inducing.isCompact_iff`. But if that's too annoying you can keep it like that and I'll fix it in a later PR (consistency between both versions is more important).

File: Mathlib/Topology/SubsetProperties.lean [hunk 15]
```diff
@@ -1307,15 +1309,151 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+    exact sUnion_eq_iUnion.symm
+
+/-- Countable unions of σ-compact sets are σ-compact.
+  Formulated here for an indexed union of sets in a given set. -/
+lemma isSigmaCompact_iUnion {ι : Type*} [Countable ι] (s : ι → Set α)
+    (hcomp : ∀ i, IsSigmaCompact (s i)) : IsSigmaCompact (⋃ i, s i) := by
+  -- Choose a decomposition s = ⋃ s_i for each s ∈ S.
+  choose K hcomp hcov using fun i ↦ hcomp i
+  -- Then, we have a countable union of countable unions of compact sets, i.e. countably many.
+  have : ⋃ i, s i = ⋃₀ range (K.uncurry) := by calc ⋃ i, s i
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1344]: This looks a bit weird. There's no definitive rule here, but I think it's nice to simply do:
```suggestion
  have := calc
          ⋃ i, s i
```
The type of the `have` will be inferred from the content of the calc block.

File: Mathlib/Topology/SubsetProperties.lean [hunk 16]
```diff
@@ -1307,15 +1309,151 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+      _ = ⋃ i, ⋃ n, (K i n) := by simp_rw [hcov]
+      _ = ⋃ (i) (n : ℕ), (K.uncurry ⟨i, n⟩) := by rw [Function.uncurry_def]
+      _ = ⋃₀ range (K.uncurry) := by rw [← iUnion_prod', sUnion_range]
+  rw [this]
+  refine isSigmaCompact_sUnion_of_isCompact (countable_range (K.uncurry)) fun s hs ↦ ?_
+  obtain ⟨⟨ys, yn⟩, hy⟩ := mem_range.mp hs
+  exact hy ▸ hcomp ys yn
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1351]: This still looks a bit too complicated. If you add the following (either replacing `sUnion` version you already have, or using the `iUnion` version to prove the `sUnion` one):
```lean
lemma isSigmaCompact_iUnion_of_isCompact {ι : Type*} [hι : Countable ι] (s : ι → Set α)
    (hcomp : ∀ i, IsCompact (s i)) : IsSigmaCompact (⋃ i, s i) := by
  rcases isEmpty_or_nonempty ι
  · simp only [iUnion_of_empty, isSigmaCompact_empty]
  · -- If ι is non-empty, choose a surjection f : ℕ → ι, this yields a map ℕ → Set X.
    obtain ⟨f, hf⟩ := countable_iff_exists_surjective.mp hι
    exact ⟨s ∘ f, fun n ↦ hcomp (f n), Function.Surjective.iUnion_comp hf _⟩
```
You can do:
```suggestion
      _ = ⋃ x, K.uncurry x := by rw [← iUnion_prod']
  rw [this]
  exact isSigmaCompact_iUnion_of_isCompact K.uncurry fun x ↦ (hcomp x.1 x.2)
```
But maybe I'm nit-picking too much...

File: Mathlib/Topology/SubsetProperties.lean [hunk 17]
```diff
@@ -1307,15 +1309,151 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+  refine ⟨(fun n ↦ s ∩ (K n)), fun n ↦ (hcompact n).inter_left hs, ?_⟩
+  rw [← inter_iUnion, hcov]
+  exact inter_eq_left.mpr h
+
+/-- If `s` is σ-compact and `f` continuous on a set `w` containing `s`, `f(s)` is σ-compact.-/
+lemma IsSigmaCompact.image_of_continuousOn {f : α → β} {s : Set α} (hs : IsSigmaCompact s)
+    (hf : ContinuousOn f s) : IsSigmaCompact (f '' s) := by
+  rcases hs with ⟨K, hcompact, hcov⟩
+  refine ⟨fun n ↦ f '' K n, ?_, hcov.symm ▸ image_iUnion.symm⟩
+  refine fun n ↦ (hcompact n).image_of_continuousOn (hf.mono (hcov.symm ▸ subset_iUnion K n))
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1382]:
```suggestion
  exact fun n ↦ (hcompact n).image_of_continuousOn (hf.mono (hcov.symm ▸ subset_iUnion K n))
```

File: Mathlib/Topology/SubsetProperties.lean [hunk 18]
```diff
@@ -1307,15 +1309,151 @@ theorem IsClosed.exists_minimal_nonempty_closed_subset [CompactSpace α] {S : Se
...
+
+/-- Countable unions of σ-compact sets are σ-compact.
+  Formulated here for a union of subsets. -/
+lemma isSigmaCompact_sUnion (S : Set (Set α)) (hc : Set.Countable S)
+    (hcomp : ∀ s : S, IsSigmaCompact s (α := α)) : IsSigmaCompact (⋃₀ S) := by
+  have : Countable S := countable_coe_iff.mpr hc
+  apply sUnion_eq_iUnion.symm ▸ isSigmaCompact_iUnion _ hcomp
+
+/-- Countable unions of σ-compact sets are σ-compact.
+  Formulated here with an index set which is a countable set in any type. -/
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:1361]: Indeed I think it's a bit weird to insist on that here. This is explained in https://leanprover-community.github.io/contribute/naming.html

File: Mathlib/Topology/SubsetProperties.lean (hunk 15 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1344]: I just learned you can do this! Indeed, looks better to me also.

File: Mathlib/Topology/SubsetProperties.lean (hunk 14 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean]: Oh well... I have flipped this back, and also changed `Inducing.isCompact_iff`.
If you realize further inconsistencies, be invited to PR that yourself :-)

File: Mathlib/Topology/SubsetProperties.lean (hunk 16 above)
Comment (grunweg) [reply Mathlib/Topology/SubsetProperties.lean:1350]: If you prefer this, I don't mind. Added.

**Comment by grunweg** [comment]
Updated again. Thanks for the fast turnaround!

**Comment by grunweg** [comment]
(Cancelling the build as this will need a rebase due to #7628 anyway.)

File: Mathlib/Topology/Compactness/SigmaCompact.lean [hunk 19]
```diff
@@ -5,28 +5,169 @@ Authors: Johannes Hölzl, Mario Carneiro, Yury Kudryashov
...
+    refine ⟨fun n ↦ f ⁻¹' (L n), ?_, ?_⟩
+    · intro n
+      have : f '' (f ⁻¹' (L n)) = L n := by
+        have h: L n ⊆ f '' s := hcov.symm ▸ subset_iUnion L n
+        apply Set.image_preimage_eq_of_subset (SurjOn.subset_range h)
+      exact hf.toInducing.isCompact_iff.mpr (this.symm ▸ (hcomp n))
+    · calc ⋃ n, f ⁻¹' L n
+        _ = f ⁻¹' (⋃ n, L n) := by rw [preimage_iUnion]
+        _ = f ⁻¹' (f '' s) := by rw [hcov]
+        _ = s := preimage_image_eq s hf.inj
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/SigmaCompact.lean:123]:
```suggestion
/-- If `f : X → Y` is `Inducing`, the image `f '' s` of a set `s` is σ-compact
  if and only `s`` is σ-compact. -/
lemma Inducing.isSigmaCompact_iff {f : α → β} {s : Set α}
    (hf : Inducing f) : IsSigmaCompact s ↔ IsSigmaCompact (f '' s) := by
  constructor
  · exact fun h ↦ h.image hf.continuous
  · rintro ⟨L, hcomp, hcov⟩
    -- Suppose f(s) is σ-compact; we want to show s is σ-compact.
    -- Write f(s) as a union of compact sets L n, so s = ⋃ K n with K n := f⁻¹(L n) ∩ s.
    -- Since f is inducing, each K n is compact iff L n is.
    refine ⟨fun n ↦ f ⁻¹' (L n) ∩ s, ?_, ?_⟩
    · intro n
      have : f '' (f ⁻¹' (L n) ∩ s) = L n := by
        rw [image_preimage_inter, inter_eq_left.mpr]
        exact (subset_iUnion _ n).trans hcov.le
      exact hf.isCompact_iff.mpr (this.symm ▸ (hcomp n))
    · calc ⋃ n, f ⁻¹' L n ∩ s
        _ = f ⁻¹' (⋃ n, L n) ∩ s  := by rw [preimage_iUnion, iUnion_inter]
        _ = f ⁻¹' (f '' s) ∩ s := by rw [hcov]
        _ = s := inter_eq_right.mpr (subset_preimage_image _ _)
```
Actually `Inducing` is enough :wink:

File: Mathlib/Topology/Compactness/SigmaCompact.lean [hunk 20]
```diff
@@ -5,28 +5,169 @@ Authors: Johannes Hölzl, Mario Carneiro, Yury Kudryashov
...
+/-- In a σ-compact space, `univ` is σ-compact. -/
+lemma isSigmaCompact_univ [h : SigmaCompactSpace α] : IsSigmaCompact (univ : Set α) :=
+  isSigmaCompact_univ_iff.mpr h
+
+/-- A topological space is σ-compact iff there exists a countable collection of compact
+subspaces that cover the entire space. -/
+lemma SigmaCompactSpace_iff_exists_compact_covering :
+    SigmaCompactSpace α ↔ ∃ K : ℕ → Set α, (∀ n, IsCompact (K n)) ∧ ⋃ n, K n = univ := by
+  rw [← isSigmaCompact_univ_iff]
+  rfl
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/SigmaCompact.lean:151]:
```suggestion
  rw [← isSigmaCompact_univ_iff, IsSigmaCompact]
```

File: Mathlib/Topology/Compactness/SigmaCompact.lean (hunk 19 above)
Comment (ADedecker) [reply Mathlib/Topology/Compactness/SigmaCompact.lean:123]: You can keep the `Embedding` version too of course.

**Review by ADedecker — APPROVED** [review]
Sorry for the wait! I think this is mostly good now, at most one more round.

File: Mathlib/Topology/Compactness/SigmaCompact.lean (hunk 19 above)
Comment (grunweg) [reply Mathlib/Topology/Compactness/SigmaCompact.lean]: Nice find! I've changed the proof as you indicated (and kept the `Embedding` version, following the example for compact sets).

File: Mathlib/Topology/Compactness/Compact.lean [hunk 21]
```diff
@@ -6,6 +6,7 @@ Authors: Johannes Hölzl, Mario Carneiro, Yury Kudryashov
 import Mathlib.Order.Filter.Pi
 import Mathlib.Topology.Bases
 import Mathlib.Data.Finset.Order
+import Mathlib.Data.Set.Basic
 import Mathlib.Data.Set.Accumulate
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/Compactness/Compact.lean]: Actually, the new import was unnecessary; I've removed it.

**Comment by grunweg** [comment]
I have addressed all the comments, and also included some last touch-ups of related doc comments (in the last commit).

**Review by ADedecker — COMMENTED** [review]
Thanks!

bors d+

**Comment by grunweg** [comment]
Thank you for the patient review.
